Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G5P2 at 30w1d here for a 3-day h/o N/V and right-sided
abdominal pain. 

Full HPI per ___, ___:
She reports that her sx started on ___. She woke up and had a
banana and 2 Tylenol (took for ear pain), went to work and
developed upper abdominal pain and vomited ___ times. She went
home and vomited a little more, states it was mostly yellow 
bile.

Yesterday, she stayed home and continued to not feel well. Her
pain was more on her right side. She kept down toast, eggs, and 
a
small amt of Gatorade. 

At midnight this morning, she started vomiting again ___ times)
and her right sided pain was worse so she presented to ED, then
to gyn triage. She denies any fevers, but feels subjective
chills. no unusual foods, no sick contacts. she denies back 
pain,
diarrhea, urinary symptoms, ctxs, lof, or vb. Last BM was ___
and nl per pt. Pt reports active FM.

Of note, pt currently getting treated for otitis externa, seen 
by
ENT on ___. Pt states ear pain improved.

 
Past Medical History:
PNC: 
*) Dating: ___ ___ by LMP c/w ___ US
*) O+/Ab-/HIV-/HbsAg-/RPRNR/RI/GC/CT neg/ GBS unk
*) Random glucose: 135; HbA1c ___ 5.2%; early GLT 134; rpt 
GLT
180, nl GTT (___)
*) nl Hbg electrophoresis
*) declined aneuploidy screening, nl FFS
*) ___: s=d, EFW 1656g(77%), ant placenta
*) Issues: 
- BMI 42
- H/o LEEP: followed by term SVD x 2; nl CL at FFS

ObHx: ___
- G1 term SVD 6# uncomplicated natural child birth (___, ___
- G2 TAB/D&C
- G3 term SVD ?8# uncomplicated natural child birth (___, ___
- G4 TAB/medication
- G5 current

PMH:
- cholecystitis, s/p laparoscopic cholecystectomy
- obesity
- left ankle fracture
- scoliosis
- denies personal history of HTN, asthma, diabetes, bleeding/
clotting disorders

SurgHx:
- laparoscopic cholecystectomy (___)
- D&C
- ankle surgery for left ankle fracture
- LEEP

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
___ 2335 Temp: 98.7 PO BP: 105/64 L Lying HR: 103 RR: 18 O2
sat: 97% O2 delivery: RA Pain Score: ___ Fetal Monitoring: FHR:
132irregular FM: Present 
___ Temp: 98.7 PO BP: 100/62 R Sitting HR: 101 RR: 18
O2 sat: 96% O2 delivery: RA Pain Score: ___ Fetal Monitoring:
FM: Present 

Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender 
Ext: [x] no edema [x] non-tender
 
Pertinent Results:
___ 06:22AM BLOOD WBC-10.9* RBC-2.94* Hgb-8.1* Hct-25.9* 
MCV-88 MCH-27.6 MCHC-31.3* RDW-14.8 RDWSD-47.0* Plt ___
___ 06:05AM BLOOD WBC-15.2* RBC-3.10* Hgb-8.6* Hct-27.0* 
MCV-87 MCH-27.7 MCHC-31.9* RDW-14.6 RDWSD-46.0 Plt ___
___ 06:29AM BLOOD WBC-18.1* RBC-3.31* Hgb-9.1* Hct-29.0* 
MCV-88 MCH-27.5 MCHC-31.4* RDW-14.2 RDWSD-45.1 Plt ___
___ 07:00AM BLOOD WBC-17.4* RBC-3.56* Hgb-9.9* Hct-30.6* 
MCV-86 MCH-27.8 MCHC-32.4 RDW-14.2 RDWSD-44.8 Plt ___
___ 06:22AM BLOOD Neuts-67.5 Lymphs-18.9* Monos-11.4 
Eos-0.0* Baso-0.2 NRBC-0.3* Im ___ AbsNeut-7.36* 
AbsLymp-2.06 AbsMono-1.24* AbsEos-0.00* AbsBaso-0.02
___ 06:05AM BLOOD Neuts-82.5* Lymphs-11.7* Monos-4.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-12.53* AbsLymp-1.77 
AbsMono-0.64 AbsEos-0.00* AbsBaso-0.03
___ 06:29AM BLOOD Neuts-81.2* Lymphs-12.3* Monos-4.9* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-14.70* AbsLymp-2.22 
AbsMono-0.89* AbsEos-0.00* AbsBaso-0.04
___ 07:00AM BLOOD Neuts-75.9* Lymphs-14.0* Monos-9.1 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-13.22* AbsLymp-2.44 
AbsMono-1.58* AbsEos-0.01* AbsBaso-0.03
___ 07:00AM BLOOD Glucose-111* UreaN-4* Creat-0.5 Na-136 
K-3.9 Cl-99 HCO3-18* AnGap-19*
___ 07:00AM BLOOD ALT-26 AST-25 Amylase-72
___ 07:00AM BLOOD Lipase-26
___ 07:00AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.7
___ 09:35AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:35AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-150* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:35AM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE Epi-3
 
Brief Hospital Course:
Ms. ___ is a ___ G5P2 who was admitted with ruptured 
appendicitis.  Ultrasound on ___ was notable for "stranding 
adjacent to the cecum, appendix partially seen, no drainable 
collection, c/f appendicitis." She had a MRI ___ which was 
concerning for ruptured acute appendicitis with appendicolith 
and secondary inflammation 
of cecal base and terminal ileum, with no drainable collection.  
She was followed by the acute care surgery team during her stay. 
Surgery was deferred given ruptured appendicitis, and 
antibiotics were favored.  She was started on IV zosyn 
(___) and was transitioned to PO augmentin 875mg BID 
(___-) for a 10 day course.  She was made betamethasone 
complete on ___.  She was discharged home in stable conditions 
with precautions and follow up scheduled.
 
Medications on Admission:
Ciprodex ear drops

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H Duration: 10 
Days 
please take the full 10 days of antibiotics 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*18 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ruptured appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and a 
ruptured appendicitis. You were given betamethasone, a steroid 
which helps the baby's lungs among other benefits. You were 
started on antibiotics and your symptoms are improving. You were 
seen by the general surgery team. Please finish the full course 
of antibiotics. You are now safe to be discharged home.  

 Please call the office for:  
 - worsening abdominal pain
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Abdominal pain  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___